US07465726B2
tert-Butyl 4-[4-(4-hydroxy-3-thiazol-5-ylphenylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylate
4-Amino-2-thiazol-5-ylphenol (70.0 mg, 0.364 mmol) was added to a solution of tert-butyl 4-(chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylate (192 mg, 0.546 mol) in n-butanol (2.0 mL). The reaction was stirred at 120° C. for 14 h. The solvent was removed and the residue was dissolved in DMF. The DMF solution was filtered and purified by HPLC to give the title compound. 1H-NMR (DMSO-d6, 400 MHz): δ=1.43 (s, 9H), 2.46 (m, 2H), 3.56 (t, J=5.6 Hz, 2H), 4.04 (s, 2H), 6.38 (s, br, 1H), 6.70 (s, 1H), 6.97 (d, J=8.8 Hz, 1H), 7.70 (dd, J=2.4, 8.8 Hz, 1H), 8.07 (d, J=2.4 Hz, 1H), 8.22 (s, 1H), 8.32 (s, 1H), 9.05 (s, 1H), 9.23 (s, 1H), 10.25 (s, br, 1H), 11.88 (s, 1H). MS (ES+): m/z 490.94 (MH+). HPLC: tR=2.51 min (ZQ2000, polar—5 min).

reactant | 4-Amino-2-thiazol-5-ylphenol | 0.364 mmol, 70.0 mg | NC1=CC(=C(C=C1)O)C1=CN=CS1 | C9H8N2OS
reactant | tert-butyl 4-(chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylate | 0.546 mol, 192 mg | ClC=1N=CC2=C(N1)NC(=C2)C=2CCN(CC2)C(=O)OC(C)(C)C | C16H19ClN4O2
solvent | n-butanol | 2.0 mL | C(CCC)O | C4H10O
product | tert-Butyl 4-[4-(4-hydroxy-3-thiazol-5-ylphenylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylate | OC1=C(C=C(C=C1)NC=1C2=C(N=CN1)NC(=C2)C=2CCN(CC2)C(=O)OC(C)(C)C)C2=CN=CS2 | C25H26N6O3S
